US04267345
dl 2-[α-(trifluoromethyl) (3-trifluoromethyl benzylamino)] oxazoline
Using the same procedure as in example III step B and starting from N-[α-(3-trifluoromethyl phenyl) trifluoroethyl] N'-(β-chloroethyl) Urea, dl 2-[α-(trifluoromethyl) 3-trifluoromethyl benzylamino)] oxazoline is produced. It melts at 129°-132°.

reactant | N-[α-(3-trifluoromethyl phenyl) trifluoroethyl] N'-(β-chloroethyl) Urea | FC(C=1C=C(C=CC1)C(C(F)(F)F)NC(=O)NCCCl)(F)F | C12H11ClF6N2O
reactant | oxazoline | O1C=NCC1 | C3H5NO
product | 2-[α-(trifluoromethyl) (3-trifluoromethyl benzylamino)] oxazoline | FC(C(C1=CC(=CC=C1)C(F)(F)F)NC=1OCCN1)(F)F | C12H10F6N2O
